US05500423
2-Chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline
A slurry of 13.60 g of 5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one and phosphorus oxychloride (35 ml) was heated under reflux, with stirring, for 1.5 hrs and stirred at ambient temperature overnight. 10% Ammonium hydroxide (100 ml) and ice were added. The mixture was filtered, and the filtrate was extracted with dichloromethane. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated. The residue was purified by flash chromatography (silica; 10:1 dichloromethane-ethyl acetate). The appropriate fractions were collected and evaporated to give 9.90 g (65.8%) of product, mp 78° C.

reactant | 5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 13.60 g | N1C(N2CCCC3=CC=CC1=C23)=O | C10H10N2O
reactant | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Ammonium hydroxide | 100 ml | [OH-].[NH4+]
product | 2-Chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline | 9.90 g, 65.8% | ClC1=NC=2C=CC=C3CCCN1C23 | C10H9ClN2
